US04555581
3.3 g (0.013 Mol) SnCl4 is added to 64 g (0.5 Mol) butyl acrylate and dissolved with stirring. Then during cooling to 20° to 25° C., 34 g (0.5 Mol) furane is added drop-wise. The exothermic reaction finishes after one hour, after which stirring is continued for one hour at 25° C. and 30 g of water added. The organic phase is separated. First, the unconverted furane is distilled off under a pressure of 10 Torr, and then the residue is distilled under a pressure of 0.02 Torr. The 2-carbobutoxy-7-oxabicyclo(2.2.1)hept-5-ene boils at 65° C. and is obtained in a yield of 34.3 g (35% of the theoretical).

reactant | SnCl4 | 0.013 Mol, 3.3 g | Cl[Sn](Cl)(Cl)Cl
reactant | butyl acrylate | 0.5 Mol, 64 g | C(C=C)(=O)OCCCC | C7H12O2
reactant | furane | 0.5 Mol, 34 g | O1C=CC=C1 | C4H4O
solvent | water | 30 g | O | H2O
product | 2-carbobutoxy-7-oxabicyclo(2.2.1)hept-5-ene | C(=O)(OCCCC)C1C2C=CC(C1)O2 | C11H16O3
